### PR TITLE
[Merged by Bors] - feat(Algebra/Module): lemmas for support dimension

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Add some lemma about support dimension over local ring and dimension 0.

---

- [x] depends on: #24494

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/KrullDimension/Module.lean [hunk 1]
```diff
@@ -75,3 +76,38 @@ lemma supportDim_eq_of_equiv (e : M ≃ₗ[R] N) :
     (supportDim_le_of_surjective e e.surjective)
 
 end Module
+
+open Ideal IsLocalRing
+
+lemma IsLocalRing.maximalIdeal_mem_support [IsLocalRing R] [Module.Finite R M] [Nontrivial M] :
+    ⟨maximalIdeal R, IsMaximal.isPrime' (maximalIdeal R)⟩ ∈ Module.support R M:= by
```
Comment (mbkybky) [inline Mathlib/RingTheory/KrullDimension/Module.lean:83]: I think using `closedPoint R` instead of `⟨maximalIdeal R, ⋯⟩` would be better.

File: Mathlib/RingTheory/KrullDimension/Module.lean [hunk 2]
```diff
@@ -75,3 +76,38 @@ lemma supportDim_eq_of_equiv (e : M ≃ₗ[R] N) :
...
+  rw [zeroLocus_eq_singleton]
+  apply le_antisymm
+  · intro p hp
+    by_contra nmem
+    simp at nmem
+    have : p < ⟨maximalIdeal R, IsMaximal.isPrime' (maximalIdeal R)⟩ :=
+      lt_of_le_of_ne (IsLocalRing.le_maximalIdeal IsPrime.ne_top') nmem
+    have := IsLocalRing.maximalIdeal_mem_support R N
+    have : Module.supportDim R N > 0 := by
+      simp [Module.supportDim, Order.krullDim_pos_iff]
```
Comment (mbkybky) [inline Mathlib/RingTheory/KrullDimension/Module.lean:108]: Please change non-terminal `simp` to `simp only`.

File: Mathlib/RingTheory/KrullDimension/Module.lean (hunk 1 above)
Comment (mbkybky) [reply Mathlib/RingTheory/KrullDimension/Module.lean:83]: [IsLocalRing.closedPoint](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Spectrum/Prime/Topology.html#IsLocalRing.closedPoint).

File: Mathlib/RingTheory/KrullDimension/Module.lean [hunk 3]
```diff
@@ -75,3 +76,37 @@ lemma supportDim_eq_of_equiv (e : M ≃ₗ[R] N) :
...
+
+lemma zeroLocus_eq_singleton (m : Ideal R) [max : m.IsMaximal] :
+    PrimeSpectrum.zeroLocus m = {⟨m, IsMaximal.isPrime' m⟩} := by
+  ext I
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · simp only [PrimeSpectrum.mem_zeroLocus, SetLike.coe_subset_coe] at h
+    simpa using PrimeSpectrum.ext_iff.mpr (Ideal.IsMaximal.eq_of_le max I.2.ne_top h).symm
+  · simp [Set.mem_singleton_iff.mp h]
+
+lemma support_of_dimension_zero [IsLocalRing R] [Module.Finite R N] [Nontrivial N]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/KrullDimension/Module.lean]: Isn't `Nontrivial N`  implied by `Module.supportDim R N = 0`?

File: Mathlib/RingTheory/KrullDimension/Module.lean [hunk 4]
```diff
@@ -75,3 +76,37 @@ lemma supportDim_eq_of_equiv (e : M ≃ₗ[R] N) :
...
+  · intro p hp
+    by_contra nmem
+    simp at nmem
+    have : p < ⟨maximalIdeal R, IsMaximal.isPrime' (maximalIdeal R)⟩ :=
+      lt_of_le_of_ne (IsLocalRing.le_maximalIdeal IsPrime.ne_top') nmem
+    have : Module.supportDim R N > 0 := by
+      simp only [Module.supportDim, gt_iff_lt, Order.krullDim_pos_iff, Subtype.exists,
+        Subtype.mk_lt_mk, exists_prop]
+      use p
+      simpa only [hp, true_and] using ⟨_, IsLocalRing.maximalIdeal_mem_support R N, this⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/KrullDimension/Module.lean]:
```suggestion
      simpa [hp] using ⟨_, IsLocalRing.maximalIdeal_mem_support R N, this⟩
```
Untested.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/KrullDimension/Module.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/KrullDimension/Module.lean]: I think so, I think I can remove it.

**Comment by Thmoas-Guan** [comment]
There's some change in import due to #25210, @riccardobrasca do you have any new comments? Thanks

**Comment by riccardobrasca** [comment]
LGTM, thanks!

bors merge
